US06737435B1
(iv) Methyl-N-(3,4-dichlorobenzyl)-4-fluoro-5-benzyloxyindole-2-carboxylate
Sodium hydride (60% in mineral oil, 589 mg) was added to a solution of methyl-4-fluoro-5-benzyloxyindole-2-carboxylate (4 g) in dimethylformamide (100 ml) and the mixture was stirred under an argon atmosphere for 30 minutes. 3,4-dichlorobenzyl chloride (2.22 ml) was added and the mixture stirred overnight. The reaction mixture was concentrated in vacuo and the residue partitioned between diethyl ether (100 ml) and water (100 ml). Organic extracts were washed with water (100 ml), dried (MgSO4), concentrated in vacuo and purified by flash column chromatography; using iso-hexane followed by 5% ethyl acetate/iso-hexane as eluent, to give the product as a yellow crystalline solid (4.61 g) 1H NMR (DMSO-d6) δ 3.80(s, 3H), 5.15(s, 2H), 5.80(s, 2H), 6.85(m, 1H), 7.25-7.52(m, 10H); M/z(+) 458.2 (MH+)

reactant | Sodium hydride | 589 mg | [H-].[Na+]
reactant | methyl-4-fluoro-5-benzyloxyindole-2-carboxylate | 4 g | COC(=O)C=1NC2=CC=C(C(=C2C1)F)OCC1=CC=CC=C1 | C17H14FNO3
reactant | 3,4-dichlorobenzyl chloride | 2.22 ml | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Methyl-N-(3,4-dichlorobenzyl)-4-fluoro-5-benzyloxyindole-2-carboxylate | 4.61 g | COC(=O)C=1N(C2=CC=C(C(=C2C1)F)OCC1=CC=CC=C1)CC1=CC(=C(C=C1)Cl)Cl | C24H18Cl2FNO3
